US07468462B2
2-[6-(3-Adamantan-1-yl-4-methoxyphenyl)-naphthalen-2-yl]-3-hydroxy-cyclopent-2-enone
A flame-dried Schlenk tube containing a Teflon coated stir bar was charged with Pd(OAc)2 (20 mg, 0.088 mmol), (2-dicyclohexylphosphino)-2′,4′,6′-triisopropyl biphenyl (105 mg, 0.22 mmol), 1,3-cyclopentanedione (65 mg, 0.66 mmol), toluene-4-sulfonic acid 6-(3-adamantan-1-yl-4-methoxyphenyl)-naphthalen-2-yl ester (238 mg, 0.44 mmol) and finely ground K3PO4 (233 mg, 1.1 mmol). The tube was capped with a septum, evacuated and backfilled with nitrogen three times, 2 mL of dry dioxane was injected and the mixture was heated to 100° C. for 3 h. The mixture was then cooled, diluted with EtOAc, washed with 1N HCl, dried over Na2SO4 and filtered. The filtrate was concentrated and purified by flash chromatography using MeOH—CH2Cl2.

reactant | 1,3-cyclopentanedione | 0.66 mmol, 65 mg | C1(CC(CC1)=O)=O | C5H6O2
reactant | toluene-4-sulfonic acid 6-(3-adamantan-1-yl-4-methoxyphenyl)-naphthalen-2-yl ester | 0.44 mmol, 238 mg | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)OS(=O)(=O)C2=CC=C(C=C2)C | C34H34O4S
reactant | K3PO4 | 1.1 mmol, 233 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Pd(OAc)2 | 0.088 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[6-(3-Adamantan-1-yl-4-methoxyphenyl)-naphthalen-2-yl]-3-hydroxy-cyclopent-2-enone | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)C=2C=C3C=CC(=CC3=CC2)C=2C(CCC2O)=O | C32H32O3
